US04044134
c. ethyl 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate
An alternative route to this product comprises heating a mixture of ethyl 6,7-dimethoxy-2-aminoquinoline-3-carboxylate (1.38 g., 5.0 mM), ethyl 1-carbethoxyformimidate hydrochloride (1.82 g., 10 mM), triethylamine (5.1 g., 5.0 mM), ethanol (50 ml.) and N,N-dimethylformamide (20 ml.) on a steam bath for 17 hours. The reaction mixture is cooled and the solid which separates filtered off, triturated with hot chloroform and then recrystallized from chloroform to give 0.170 g. of product. M.P. 273°-274° C. (dec.).

reactant | ethyl 6,7-dimethoxy-2-aminoquinoline-3-carboxylate | 5.0 mM, 1.38 g | COC=1C=C2C=C(C(=NC2=CC1OC)N)C(=O)OCC | C14H16N2O4
reactant | ethyl 1-carbethoxyformimidate hydrochloride | 10 mM, 1.82 g | Cl.C(=O)(OCC)C(OCC)=N
reactant | triethylamine | 5.0 mM, 5.1 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate | COC=1C=C2C=C3C(=NC2=CC1OC)N=C(NC3=O)C(=O)OCC | C16H15N3O5
